### PR TITLE
feat(GreensOpenProblems): 24

### LINKED ISSUE #1559: Green's Open Problems #24
### What is the conjecture
https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#problem.24

If $A$ is a set of $n$ integers, what is the maximum number of affine translates of the set $\\{0, 1, 3\\}$ that $A$ can contain?

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-11

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by jeangud**
# Description

If $A$ is a set of $n$ integers, what is the maximum number of affine translates of the set $\lbrace 0,1,3 \rbrace$ that $A$ can contain?

- Also includes known bounds and conjectures
- Closes #1559.

**References:**
- [Green, Ben. "100 open problems." (2024).](https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#problem.24)
- [Aa19] Aaronson, James. "Maximising the number of solutions to a linear equation in a set of integers."
  Bulletin of the London Mathematical Society 51.4 (2019): 577-594.
- [HaL28] Hardy, G. H., and J. E. Littlewood. "Notes on the theory of series (VIII): an inequality."
  Journal of the London Mathematical Society 1.2 (1928): 105-110.

# Testing
:white_check_mark: Builds successfully
```shell
$ lake build FormalConjectures/GreensOpenProblems/24.lean 
Build completed successfully.
```

### CODE REVIEW

File: FormalConjectures/GreensOpenProblems/24.lean [hunk 1]
```diff
@@ -0,0 +1,88 @@
...
+/--
+The maximum number of $\lbrace 0,1,3 \rbrace$ affine translates that a set of size $n$ can
+contain.
+-/
+noncomputable def max013Translates (n : ℕ) : ℕ :=
+  sSup { k |
+    ∃ A : Finset ℤ,
+      A.card = n ∧
+      k = (A.filter (fun x ↦ x + 1 ∈ A ∧ x + 3 ∈ A)).card
+  }
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/24.lean]: What you have written is translates, not affine translation. You need to consider rescaling

File: FormalConjectures/GreensOpenProblems/24.lean [hunk 2]
```diff
@@ -0,0 +1,88 @@
...
+  @[category research open, AMS 5 11]
+  theorem lower_HL :
+    gamma ≥ (1/12 : ℝ) := by
+    sorry
+
+  /-- Conjecture p.579 in [Aa19]: $\left({1}{3} + o(1)\right) n^2$. -/
+  @[category research open, AMS 5 11]
+  theorem conjecture :
+    gamma = (1/3 : ℝ) := by
+    sorry
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/24.lean]:
```suggestion
namespace variants

/-- From [Aa19] p.577: the trivial upper bound is $n^2$ (non asymptotic) -/
@[category research open, AMS 5 11]
theorem upper_trivial {n : ℕ} : max013Translates n ≤ n ^ 2 := by
  sorry

/-- The asymptotic constant $\gamma$ defined in [Aa19] p.579. -/
noncomputable def gamma : ℝ :=
  limsup (fun n : ℕ => (max013Translates n : ℝ) / ((n : ℝ)^2)) atTop

/-- Asymptotic upper bound (1.2) in [Aa19]. Named after Hardy and Littlewood [HaL28]. -/
@[category research open, AMS 5 11]
theorem upper_HL : gamma ≤ (3/4 : ℝ) := by
  sorry

/-- Asymptotic lower bound (1.2) in [Aa19]. Named after Hardy and Littlewood [HaL28]. -/
@[category research open, AMS 5 11]
theorem lower_HL : gamma ≥ (1/12 : ℝ) := by
  sorry

/-- Conjecture p.579 in [Aa19]: $\left({1}{3} + o(1)\right) n^2$. -/
@[category research open, AMS 5 11]
theorem conjecture : gamma = (1/3 : ℝ) := by
  sorry
```

File: FormalConjectures/GreensOpenProblems/24.lean [hunk 3]
```diff
@@ -0,0 +1,88 @@
...
+
+/--
+If $A$ is a set of $n$ integers, what is the maximum number of affine translates of the set
+$\lbrace 0,1,3 \rbrace$ that $A$ can contain?
+
+Conjectured in [Aa19] p.579: $\left({1}{3} + o(1)\right) n^2$.
+-/
+@[category research open, AMS 5 11]
+theorem green_24 :
+  ∀ n, max013Translates n = answer(sorry) := by
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/24.lean]:
```suggestion
theorem green_24 : ∀ n, max013Translates n = answer(sorry) := by
```

File: FormalConjectures/GreensOpenProblems/24.lean (hunk 1 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/24.lean]: Ah yes, looking into it. 

Thank you for the review and for aligning the formatting!

Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/24.lean]: Done! My attempt is under https://github.com/google-deepmind/formal-conjectures/pull/1772/commits/2a37a69f31eb1a22804d1605f88d4fd8bef16075, not sure if this is the most elegant way to do it.

- Added a clarifying comment for readability
- Renamed the function

File: FormalConjectures/GreensOpenProblems/24.lean [hunk 4]
```diff
@@ -0,0 +1,85 @@
...
+If $A$ is a set of $n$ integers, what is the maximum number of affine translates of the set
+$\lbrace 0,1,3 \rbrace$ that $A$ can contain?
+
+Conjectured in [Aa19] p.579: $\left({1}{3} + o(1)\right) n^2$.
+-/
+@[category research open, AMS 5 11]
+theorem green_24 : ∀ n, max013AffineTranslates n = answer(sorry) := by
+  sorry
+
+/- A collection of associated bounds and conjectured values. -/
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/24.lean]:
```suggestion
/-! A collection of associated bounds and conjectured values. -/

```

File: FormalConjectures/GreensOpenProblems/24.lean [hunk 5]
```diff
@@ -0,0 +1,85 @@
...
+theorem upper_trivial {n : ℕ} : max013AffineTranslates n ≤ n ^ 2 := by
+  sorry
+
+/-- The asymptotic constant $\gamma$ defined in [Aa19] p.579. -/
+noncomputable def gamma : ℝ :=
+  limsup (fun n : ℕ => (max013AffineTranslates n : ℝ) / ((n : ℝ)^2)) atTop
+
+/-- Asymptotic upper bound (1.2) in [Aa19]. Named after Hardy and Littlewood [HaL28]. -/
+@[category research open, AMS 5 11]
+theorem upper_HL : gamma ≤ (3/4 : ℝ) := by
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/24.lean]:
```suggestion
theorem upper_HL : gamma ≤ 3/4 := by
```
Same below

File: FormalConjectures/GreensOpenProblems/24.lean (hunk 4 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/24.lean]: Done, addressed with [8dda4be](https://github.com/google-deepmind/formal-conjectures/pull/1772/commits/8dda4be29fff1ce6c9bd017d0dfe8f4398d9fb04)

File: FormalConjectures/GreensOpenProblems/24.lean (hunk 5 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/24.lean]: Done! Addressed with [2ae2054](https://github.com/google-deepmind/formal-conjectures/pull/1772/commits/2ae20543f319e117c94df5fc3ee52f3bff4e0c7d)

File: FormalConjectures/GreensOpenProblems/24.lean [hunk 6]
```diff
@@ -0,0 +1,85 @@
...
+If $A$ is a set of $n$ integers, what is the maximum number of affine translates of the set
+$\lbrace 0,1,3 \rbrace$ that $A$ can contain?
+
+Conjectured in [Aa19] p.579: $\left({1}{3} + o(1)\right) n^2$.
+-/
+@[category research open, AMS 5 11]
+theorem green_24 : ∀ n, max013AffineTranslates n = answer(sorry) := by
+  sorry
+
+/-! A collection of associated bounds and conjectured values. -/
```
Comment (YaelDillies) [inline FormalConjectures/GreensOpenProblems/24.lean:56]:
```suggestion
/-! A collection of associated bounds and conjectured values. -/

```

File: FormalConjectures/GreensOpenProblems/24.lean (hunk 4 above)
Comment (YaelDillies) [reply FormalConjectures/GreensOpenProblems/24.lean]: Please resolve the comments on github!
